Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Transient visual symptoms

 
Major Surgical or Invasive Procedure:
none 

 
History of Present Illness:
The pt is a ___ year-old M w/ hx of insomnia who presents with
transient visual symptoms. Hx obtained from pt at bedside.

Pt reports that ___ evening at 5pm while sitting down at work
pt had acute onset of "blotchiness" in his vision, with 
decreased
involvement of RUQ (of note, pt did not cover either eye to 
check
for monocular/binocular phenomenon). Also noticed horizontal
lines moving across lower visual fields. No associated blurring
of vision, diplopia, peripheral scotoma, headache or eye pain.
Denies progression of visual sx. Event lasted for 25 minutes
before spontaneously resolving. During this time, pt walked
around his office to look for any change, with colleagues
reporting that pt appeared to say words "in disconnected
fashion", often stopping sentences midsentence. However, pt
denies having any language difficulties present and feels that 
he
was merely moving around to talk to different persons. Denies
having any clear dysarthria, weakness, numbness/tingling,
lightheadedness, hearing changes, vertigo, or other focal
neurologic deficit. Denies having had similar events in past. Of
note, pt states he was "exhausted" on day of event due to
significantly poor sleep over prior weekend. Family history
notable for TIAs and later strokes in pt's father, although
unable to further describe.

Due to this event, pt presented to local ED ___)
where ___ was normal. He was recommended to follow up with his
neurologist which he did on day of presentation. Out of concern,
he was recommended to come to ED for further evaluation. At time
of interview, pt indicated he felt at baseline with no recurrent
visual sx.

Neurologic and General ROS negative except as noted above

 
Past Medical History:
Anxiety/Insmonia                              

 
Social History:
___
Family History:
F-TIAs/strokes
Brother-MI in ___       
 
Physical Exam:
Physical Exam:
Vitals: T: 98.5 P: 88 BP: 118/100 RR: 20 O2sat: 99% RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Neck: Supple, no carotid bruits appreciated. No nuchal rigidity
Pulmonary: Lungs CTA bilaterally without R/R/W
Cardiac: RRR, nl. S1S2, no M/R/G noted
Abdomen: soft, NT/ND, normoactive bowel sounds, no masses or
organomegaly noted.
Extremities: No C/C/E bilaterally, 2+ radial, DP pulses
bilaterally.
Skin: no rashes or lesions noted.

Neurologic:

-Mental Status: Alert, oriented to person, place, and date. Able
to relate history without difficulty. Attentive, able to name 
___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. Pt was able to register 3
objects and recall ___ at 5 minutes. There was no evidence of
apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Visual acuity
___ bilaterally. Fundoscopic exam revealed no papilledema,
exudates, or hemorrhages.
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii and SCM bilaterally.
XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

-Sensory: No deficits to light touch, pinprick, cold sensation,
vibratory sense, proprioception throughout. No extinction to 
DSS.

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Plantar response was flexor bilaterally.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

Discharge exam: Non focal 
 
Pertinent Results:
___ 05:00AM BLOOD WBC-6.5 RBC-4.95 Hgb-15.2 Hct-45.6 MCV-92 
MCH-30.7 MCHC-33.3 RDW-12.6 RDWSD-42.4 Plt ___
___ 05:00AM BLOOD Neuts-64.7 ___ Monos-8.2 Eos-1.4 
Baso-0.3 Im ___ AbsNeut-4.19 AbsLymp-1.61 AbsMono-0.53 
AbsEos-0.09 AbsBaso-0.02
___ 05:00AM BLOOD ___ PTT-29.9 ___
___ 05:00AM BLOOD Glucose-96 UreaN-21* Creat-1.1 Na-144 
K-4.1 Cl-104 HCO3-27 AnGap-13
___ 05:00AM BLOOD ALT-23 AST-20 LD(LDH)-180 CK(CPK)-202 
AlkPhos-66 TotBili-0.2
___ 05:00AM BLOOD CK-MB-2 cTropnT-<0.01
___ 05:00AM BLOOD Albumin-4.1 Calcium-9.4 Phos-4.1 Mg-2.4 
Cholest-187
___ 05:00AM BLOOD %HbA1c-5.7 eAG-117
___:00AM BLOOD Triglyc-186* HDL-32* CHOL/HD-5.8 
LDLcalc-118
___ 05:00AM BLOOD TSH-4.4*
___ 05:00AM BLOOD CRP-1.0
___ 02:55PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG

MRI ___
"FINDINGS: 
 
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift
or infarction.
 
The major intracranial vascular flow voids are maintained.  The 
ventricles andsulci are normal in caliber and configuration.  
The paranasal sinuses, mastoidair cells and orbits are normal.  
Visualized orbits are normal.  There is nooccipital lobe or 
visual pathway abnormality.  No parasellar or suprasellarmass on 
the images provided.  There few tiny right intra parotid lymph 
nodes,likely reactive.
 
IMPRESSION: 
 
No acute intracranial abnormality."

CTA H/N ___
"IMPRESSION:
 
 
1. No acute intracranial abnormality.
2. No evidence of dissection, aneurysm or significant stenosis 
of the head and
neck.  No significant internal carotid artery stenosis by NASCET 
criteria."

TTE
"The left atrium is elongated. No atrial septal defect is seen 
by 2D or color Doppler. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Tissue Doppler imaging suggests a normal left ventricular 
filling pressure (PCWP<12mmHg). Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The aortic valve 
leaflets (3) appear structurally normal with good leaflet 
excursion and no aortic stenosis or aortic regurgitation. The 
mitral valve appears structurally normal with trivial mitral 
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion. 

IMPRESSION: No intracardiac source of thromboembolism 
identified. Mild symmetric left ventricular hypertrophy with 
preserved biventricular systolic function. "
 
Brief Hospital Course:
___ year-old M with history of insomnia who initially presented 
for evaluation of transient visual symptoms and speech 
difficulty. Neurological exam remained non focal. Imaging with 
NCHCT, CTA head/neck, and MRI did not show evidence of acute 
stroke. Stroke risk factors assessed with A1C of 5.7% and LDL of 
118. He was started on ASA 81mg PO daily. It was felt more 
likely to be migraine with aura. He had subjective complaints f 
LT upper extremity sensory loss so we have advised him to 
schedule a nerve conduction study. 

Transitional issues 
- Follow up with PCP within one week from discharge
- Continue ASA 81mg PO daily
- Follow up elevated TSH 
- We have recommended nerve conduction study of LT upper 
extremity 
- Consider starting Zetia as per PCP
 
___ on ___:
The Preadmission Medication list is accurate and complete.
1. QUEtiapine Fumarate 25 mg PO QHS 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*3 
2.  QUEtiapine Fumarate 25 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Complex migraine
Migraine associated vertigo

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear. Mr. ___, 

You were admitted to the hospital with transient visual symptoms 
with concerns for a stroke. We imaged your brain and vessels of 
the head and neck, which did not show evidence of an acute 
stroke. We assessed your stroke risk factors by checking your 
blood sugar and cholesterol which were normal. At this time your 
symptoms have resolved and your neurological exam is reassuring. 
We believe the cause of your symptoms was likely a complex 
migranous phenomenon. We checked your thyroid hormone, which was 
elevated and we recommend you follow this with your primary care 
doctor within one week. To prevent strokes in the future we will 
start you on a daily baby aspirin, which you should continue 
indefinitely. In terms of your complaints of abnormal left arm 
sensation we recommended a nerve conduction study. You should 
call the neurology clinic at ___ to schedule thi test. 

It has been a pleasure taking care of you, 

Your ___ Neurology team    
 
Followup Instructions:
___